US05578620
(S)-3-Chlorophenoxymethyloxirane
5.22 g of diethyl azodicarboxylate were added dropwise to a mixture of 2.57 g of 3-chlorophenol, 7.86 g of triphenylphosphine and 30 ml of anhydrous benzene, and the mixture was stirred at room temperature for 1 hour. 2.01 g of (R)-glycidol were then added dropwise to the mixture, and the resulting mixture was left to stand at room temperature for 14 hours. At the end of this time, benzene was removed from the reaction mixture by evaporation under reduced pressure, and the resulting residue was purified by silica gel column chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the eluent, to give 3.11 g of the title compound having an Rf value of 0.42 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | diethyl azodicarboxylate | 5.22 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chlorophenol | 2.57 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | triphenylphosphine | 7.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-glycidol | 2.01 g | C1[C@H](O1)CO | C3H6O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | (S)-3-Chlorophenoxymethyloxirane | 3.11 g | ClC1[C@@H](O1)COC1=CC=CC=C1 | C9H9ClO2
